US06884801B1
1-(2-Aminobenzoyl)piperidine (prepared from piperidine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-piperidinyl)methanone.

reactant | 1-(2-Aminobenzoyl)piperidine | NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C12H16N2O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-piperidinyl)methanone | N1C(=NCC1)CNC1=C(C=CC=C1)C(=O)N1CCCCC1 | C16H22N4O
